US07067540B2
Preparation of 1-(2,6-difluorophenyl)-4-hydroxy-6-methylpyridin-2(1H)-one
A mixture of 4-hydroxy-6-methyl-2-pyrone (10.0 g, 0.079 mol) and 2,6 difluoroaniline (9.5 g, 0.073 mol) was heated at 170° C. under argon atmosphere for 20 min. The water formed was removed using a Dean-stark apparatus. The melt was cooled, the dark solid was tritutrated with EtOAc., and filtered. This material was washed thoroughly with EtOAc to afford the desired product 1-(2,6-difluorophenyl)-4-hydroxy-6-methylpyridin-2(1H)-one 6.5 g (35%) as a light brown solid: 1H NMR (CD3OD/400 MHz) δ 7.56 (m, 1H), 7.19 (m, 2H), 6.09 (m, 1H), 5.77 (d, 1H, J=2.4 Hz), and 1.99 (s, 3H); ES-HRMS m/z 238.0679 (M+H C12H10NO2F2 requires 238.0674).

reactant | 4-hydroxy-6-methyl-2-pyrone | 0.079 mol, 10.0 g | OC1=CC(OC(=C1)C)=O | C6H6O3
reactant | 2,6 difluoroaniline | 0.073 mol, 9.5 g | FC1=C(N)C(=CC=C1)F | C6H5F2N
solvent | water | O | H2O
product | 1-(2,6-difluorophenyl)-4-hydroxy-6-methylpyridin-2(1H)-one | 6.5 g, 35% | FC1=C(C(=CC=C1)F)N1C(C=C(C=C1C)O)=O | C12H9F2NO2
